US06384234B1
Preparation of (6S-cis)-1-chloro-N-[2-chloro-4-fluoro-5-(6-fluorotetrahydro-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)-yl)phenyl]methanesulfonamide
In a Teflon® flask, a suspension of (6R-trans)-1-chloro-N-[2-chloro-4-fluoro-5-(tetrahydro-6-hydroxy-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)yl)phenyl]methanesulfonamide (8.24 g, assay 94.5% pure, 18.9 mmol) in 1,2-dichloroethane (40 mL) was heated to reflux and then 1,1,2,2-tetrafluoroethyldiethylamine (3.8 g, 26 mmol) was added over 1-2 minutes. Refluxing was continued for 1 hour, then 20 mL of the solvent was distilled out of the reaction mixture at atmospheric pressure. The reaction mixture was cooled to 50° C., 1-propanol (1 mL) was added, the pressure was reduced to about 20 kPa (150 mm Hg) for 10 minutes, and then the remaining solvent was distilled off at 55-60° C. at 20 kPa (150 mm Hg). More 1-propanol (15 mL) was added at 60° C., then the mixture was cooled slowly to room temperature, and stirred overnight at room temperature to complete the crystallization. The mixture was filtered and the solids were rinsed with several portions of 1-propanol (10 mL total) and dried to afford 6.57 g (79.3% crude yield) of the title compound as a white powder melting at 166-168° C. (purity: 97.3% by HPLC).

reactant | (6R-trans)-1-chloro-N-[2-chloro-4-fluoro-5-(tetrahydro-6-hydroxy-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)yl)phenyl]methanesulfonamide | 18.9 mmol, 8.24 g | ClCS(=O)(=O)NC1=C(C=C(C(=C1)N1C(N2[C@@H](C1=O)C[C@H](C2)O)=O)F)Cl | C13H12Cl2FN3O5S
reactant | 1,1,2,2-tetrafluoroethyldiethylamine | 26 mmol, 3.8 g | FC(C(F)F)(F)N(CC)CC | C6H11F4N
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | (6S-cis)-1-chloro-N-[2-chloro-4-fluoro-5-(6-fluorotetrahydro-1,3-dioxo-1H-pyrrolo[1,2-c]imidazol-2(3H)-yl)phenyl]methanesulfonamide | ClCS(=O)(=O)NC1=C(C=C(C(=C1)N1C(N2[C@@H](C1=O)C[C@@H](C2)F)=O)F)Cl | C13H11Cl2F2N3O4S
